US06949674B2
Into a 5 liter four-necked flask equipped with a thermometer, a Dimroth condenser and a stirrer, 3 liters of n-butanol and 180 g (2.72 moles) of potassium hydroxide (85%) were placed and dissolved by heating under the refluxing condition. To the obtained solution, 80 g (0.272 moles) of (3,5-bis(methoxycarbonyl)phenyl)-2-phenylethyne synthesized above was added and the resultant mixture was heated for 30 minutes under the refluxing condition. The reaction mixture was then cooled in an ice bath and the formed crystals were separated by filtration. The crystals were washed twice with 1 liter of ethanol and dried at 60° C. under a reduced pressure and 90.35 g of dipotassium 5-(2-phenylethynyl)-isophthalate was obtained (the yield: 97%).

reactant | potassium hydroxide | 2.72 moles, 180 g | [OH-].[K+]
reactant | (3,5-bis(methoxycarbonyl)phenyl)-2-phenylethyne | 0.272 moles, 80 g | COC(=O)C=1C=C(C=C(C1)C(=O)OC)C#CC1=CC=CC=C1 | C18H14O4
solvent | n-butanol | 3 liters | C(CCC)O | C4H10O
product | dipotassium 5-(2-phenylethynyl)-isophthalate | 90.35 g, yield: 97% | C1(=CC=CC=C1)C#CC=1C=C(C=C(C(=O)[O-])C1)C(=O)[O-].[K+].[K+] | InChI=1S/C16H10O4.2K/c17-15(18)13-8-12(9-14(10-13)16(19)20)7-6-11-4-2-1-3-5-11;;/h1-5,8-10H,(H,17,18)(H,19,20);;/q;2*+1/p-2
